US07091198B1
2,5-Anhydro-3,4-dideoxy-1,6-bis-O-[(4-methylphenyl)sulfonyl]hexitol
34.0 g (261 mmol) of 2,5-bis(hydroxymethyl)tetrahydrofuran are dissolved in 260 ml of dichloromethane. A solution of 99.0 g (521 mmol) of p-toluenesulfonyl chloride in 52 ml of pyridine and 130 ml of dichloromethane is added dropwise thereto. After stirring at room temperature for 24 hours, the precipitate is filtered off with suction and washed with dichloromethane. The filtrate and the washing phases are combined, washed with dilute hydrochloric acid and then with saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated to dryness. The crude product is recrystallized from ethanol.

reactant | 2,5-bis(hydroxymethyl)tetrahydrofuran | 261 mmol, 34.0 g | OCC1OC(CC1)CO | C6H12O3
reactant | p-toluenesulfonyl chloride | 521 mmol, 99.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 260 ml | ClCCl | CH2Cl2
solvent | pyridine | 52 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | 2,5-Anhydro-3,4-dideoxy-1,6-bis-O-[(4-methylphenyl)sulfonyl]hexitol | CC1=CC=C(C=C1)S(=O)(=O)OCC2CCC(O2)COS(=O)(=O)C3=CC=C(C=C3)C | C20H24O7S2
